US08648084B2
N-(6-chloropyrazin-2-yl)-3-methylbenzamide
2-Amino-6-chloropyrazine (496.0 mg, 3.83 mmol) was dissolved in pyridine (15 mL). 3-Methylbenzoyl chloride (760 μL, 5.77 mmol) was added to the reaction mixture. The reaction was heated to 100° C. for 16 h then concentrated under vacuum. The residue was partitioned between 1M K2CO3 (50 mL) and CH2Cl2 (4×50 mL). The organic extracts were combined, washed with and brine (50 mL), dried over Na2SO4, filtered and concentrated under vacuum. The residue was purified by silica gel chromatography (5% EtOAc in CH2Cl2, Rf=0.39) to afford the title compound as a white solid (919.0 mg, 97%). MS m/z 248 (M+H)+.

reactant | 2-Amino-6-chloropyrazine | 3.83 mmol, 496.0 mg | NC1=NC(=CN=C1)Cl | C4H4ClN3
reactant | 3-Methylbenzoyl chloride | 5.77 mmol, 760 μL | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-chloropyrazin-2-yl)-3-methylbenzamide | 919.0 mg, 97% | ClC1=CN=CC(=N1)NC(C1=CC(=CC=C1)C)=O | C12H10ClN3O
